US08957069B2
1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
tert-butyl 4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine-1-carboxylate (16.1 g, 44.7 mmol) synthesized in Reference Example 55 was added to an ethyl acetate solution containing 2N hydrogen chloride, and the mixture was stirred at 50° C. for 3 hours. The reaction solution was poured into an aqueous solution of 2N sodium hydroxide, and the mixture was extracted using ethyl acetate. The extract was washed with saturated saline, and dried using anhydrous sodium sulfate. After that, the solvent was removed under reduced pressure, and the obtained residue was purified by basic silica gel column chromatography (ethyl acetate-methanol 90:10) to give 11.3 g of the title compound as an oily product (yield: 97%).

reactant | tert-butyl 4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine-1-carboxylate | 44.7 mmol, 16.1 g | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C(=O)OC(C)(C)C)C | C21H32N2O3
reactant | hydrogen chloride | 2N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 11.3 g | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C | C16H24N2O
